US07544812B2
The 3-(3-benzyloxy-phenyl)-2-methyl-3-(2,2,2-trifluoro-acetoxy)-2-(4-trifluoromethyl-phenoxy)-propionic acid ethyl ester (9.03 g, 15.8 mmol) was combined with 10% Pd/C (9.0 g) in ethyl acetate (200 mL). The mixture was purged with N2 then H2 and then stirred at room temperature under a H2 balloon for approximately 48 h. The reaction mixture was filtered through hyflo to remove the catalyst and the resultant filtrate dried (MgSO4). The solvent was removed in vacuo to give crude product that was purified by flash chromatography using 3:1 hexanes:acetone to afford 1.96 g (32%) 3-(3-hydroxy-phenyl)-2-methyl-2-(4-trifluoromethyl-phenoxy)-propionic acid ethyl ester. The racemic phenol was purified by preparative chiral HPLC (Chiralcel OD, 5×37 cm, 95:5 heptane:IPA mobile phase, 150 ml/min, 285 nm, GK8-A015150-031). Rf=0.32 (1:1 hexanes:acetone). 1 NMR. MS (ES−) Calc'd for C19H18O4F3 (M−1) 367. Found m/z 367 (100%).

reactant | 3-(3-benzyloxy-phenyl)-2-methyl-3-(2,2,2-trifluoro-acetoxy)-2-(4-trifluoromethyl-phenoxy)-propionic acid ethyl ester | 15.8 mmol, 9.03 g | C(C)OC(C(C(OC(C(F)(F)F)=O)C1=CC(=CC=C1)OCC1=CC=CC=C1)(OC1=CC=C(C=C1)C(F)(F)F)C)=O | C28H24F6O6
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 9.0 g | [Pd] | Pd
product | 3-(3-hydroxy-phenyl)-2-methyl-2-(4-trifluoromethyl-phenoxy)-propionic acid ethyl ester | 1.96 g, 32% | C(C)OC(C(CC1=CC(=CC=C1)O)(OC1=CC=C(C=C1)C(F)(F)F)C)=O | C19H19F3O4
